US07034044B2
a) 2-[2-(3-Trifluoromethyl-phenyl)-vinyl]-pyridine 1-oxide
Following the general method described in example 2a, 2-picoline-1-oxide was reacted with potassium tert.-butanolate and 3-trifluoromethyl-benzaldehyde. After extraction and chromatography the title compound was obtained as a yellow solid material. MS: m/e=265 (M+).

reactant | 2-picoline-1-oxide | [N+]=1(C(=CC=CC1)C)[O-] | C6H7NO
reactant | potassium tert.-butanolate | C(C)(C)(C)[O-].[K+]
reactant | 3-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | 2-[2-(3-Trifluoromethyl-phenyl)-vinyl]-pyridine 1-oxide | FC(C=1C=C(C=CC1)C=CC1=[N+](C=CC=C1)[O-])(F)F | C14H10F3NO
